US08440662B2
Step 6: 7-Bromo-2-chloro-4-morpholin-4-yl-quinazoline
To an ice cold solution of 7-bromo-2,4-dichloro-quinazoline (7 g, 0.0255 mol) in DCM (150 mL), morpholine (4.43 mL, 0.0509 mol) was slowly added and the reaction was continued at 0° C. for 30 min. The solvent was evaporated to dryness to get the crude compound. The crude product was purified, using column chromatography (60-120 silica gel, 30% ethyl acetate in hexane) to get the title compound (7 g, 84%). 1H NMR (300 MHz, CDCl3): δ 8.17 (d, J=7.5 Hz, 1H), 8.04 (d, J=7.5 Hz, 1H), 7.63 (d, J=8.1 Hz, 1H), 3.72-3.74 (m, 8H): LC-MS (ESI): Calculated mass: 327.0; Observed mass: 329.8 [M+H]+ (RT: 0.45 min).

reactant | 7-bromo-2,4-dichloro-quinazoline | 0.0255 mol, 7 g | BrC1=CC=C2C(=NC(=NC2=C1)Cl)Cl | C8H3BrCl2N2
reactant | morpholine | 0.0509 mol, 4.43 mL | N1CCOCC1 | C4H9NO
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | 7-Bromo-2-chloro-4-morpholin-4-yl-quinazoline | 7 g, 84% | BrC1=CC=C2C(=NC(=NC2=C1)Cl)N1CCOCC1 | C12H11BrClN3O
